US05594021
n-BuLi (2.38M, 16 ml) was slowly added to a solution of 2-methyl thiophene (3.0 g, 31 mmol) in THF (20 ml) at -78° C. The solution was kept at -78° C. for 10 min. then warmed to 0° C. for an additional 0.5 hr. The solution was then transferred by steel canula under nitrogen into a vessel containing triisopropylborate (6.3 g, 33 mmol) in ether (15 ml) at -78° C. The resulting milky white solution was stirred at -78° C. for 20 min. then at room temperature for 2 hours. The reaction was quenched by the addition of 10% aqueous HCl (5.0 ml) and the solution was extracted into ether. The combined ether extracts were extracted with 10M NaOH (2×30 ml), the aqueous extracts were acidified with dilute HCl to pH 2 and extracted into ether (3×25 ml). The combined ether extracts were washed once with water (10 ml), once with brine (10 ml) and dried and evaporated to give 3.91 g 2-methylthiophene-5-boronic acid as a light brown solid. This was used in the next step with no further purification.

reactant | n-BuLi | 2.38M, 16 ml | [Li]CCCC
reactant | 2-methyl thiophene | 31 mmol, 3.0 g | CC=1SC=CC1 | C5H6S
reactant | triisopropylborate | 33 mmol, 6.3 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ether | 15 ml | CCOCC | C4H10O
product | 2-methylthiophene-5-boronic acid | 3.91 g | CC=1SC(=CC1)B(O)O | C5H7BO2S
